US07307075B2
4-(3-Chloropropyl)-4H-benzo[1,4]thiazin-3-one (81MF07)
2H-1,4-benzothiazine-3(4H)-one (1.0 g, 6.05 mmol) and Cs2CO3 (2.96 g, 9.08 mmol) were dissolved in dry acetonitrile (20 mL) under nitrogen atmosphere and stirred at rt for 30 min. 3-chloro-1-iodopropane (1.37 g, 6.66 mmol) dissolved in acetonitrile (4 mL) was added via a syringe. The reaction mixture was stirred at rt for 18 hours and concentrated in vacuo. Water (150 mL) was added and the reaction mixture was extracted with ethyl acetate (3×150 mL). The combined organic phases were dried (MgSO4) and concentrated in vacou to give 1.45 g of crude. The crude product was subjected to CC[eluent:Heptane:EtOAC(4:1)] to give the pure title compound as a slightly yellow oil. Yield 1.37 g, 90.2%. Rf=0.24 [Heptane:EtOAC(4:1)], 1H NMR (CDCl3): δ 2.14 (m, 2H), 3.38 (s, 2H), 3.36 (t, 2H), 4.17 (t, 2H), 7.03 (t, 1H), 7.18 (d, 1H), 7.26 (t, 1H), 7.37 (d, 1H). 13C NMR (CDCl3): δ 30.61, 31.81, 42.48, 42.66, 117.87, 123.78, 124.29, 127.52, 127.52, 128.78, 139.40, 165.51

reactant | 2H-1,4-benzothiazine-3(4H)-one | 6.05 mmol, 1.0 g | S1CC(NC2=C1C=CC=C2)=O | C8H7NOS
reactant | Cs2CO3 | 9.08 mmol, 2.96 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloro-1-iodopropane | 6.66 mmol, 1.37 g | ClCCCI | C3H6ClI
reactant | Heptane | CCCCCCC | C7H16
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 4-(3-Chloropropyl)-4H-benzo[1,4]thiazin-3-one | ClCCCN1C(CSC2=C1C=CC=C2)=O | C11H12ClNOS
